US09290485B2
To a solution of methyl 1,2-Dimethyl-1H-indole-5-carboxylate (crude, 1.14 mg, 5.31 mmol) in THF (54 ml) Lithiumaluminium hydride (1 M in THF, 5.31 ml) was added at 0° C. The reaction mixture was stirred at rt for 2 hours. Sodium sulfate decahydrate was added to the reaction mixture to destroy the excess of Lithiumaluminium hydride. After 1 hour, methanol was added and the fine suspension was filtered off. The filtrate was concentrated under vacuum to afford crude (1,2-Dimethyl-1H-indol-5-yl)methanol. MS (Method V) [M+H]+=176.3.

reactant | methyl 1,2-Dimethyl-1H-indole-5-carboxylate | 5.31 mmol, 1.14 mg | CN1C(=CC2=CC(=CC=C12)C(=O)OC)C | C12H13NO2
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 1 M, 54 ml | C1CCOC1 | C4H8O
product | (1,2-Dimethyl-1H-indol-5-yl)methanol | CN1C(=CC2=CC(=CC=C12)CO)C | C11H13NO
